data/polar.json
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:4])([Cl:5])[CH:19]=[C:26]([Cl:28])[c:30]2[cH:2][cH:7][cH:24][n:3][c:17]2[C:22]1=[O:13].[cH:6]1[cH:14][cH:8][c:21]([C:16](=[C:10]2[N:11]([CH3:27])[C:18]([CH3:25])=[C:31]([CH3:29])[S:20]2)[O:23][CH3:12])[cH:9][cH:15]1>>[Cl:4][C:16]([c:10]1[n+:11]([CH3:27])[c:18]([CH3:25])[c:31]([CH3:29])[s:20]1)([c:21]1[cH:8][cH:14][cH:6][cH:15][cH:9]1)[O:23][CH3:12].[c:1]1([Cl:5])[cH:19][c:26]([Cl:28])[c:30]2[cH:2][cH:7][cH:24][n:3][c:17]2[c:22]1[O-:13]", "epd": [["LP-/Pi+", [11], [10, 11]], ["Pi-/Sigma+", [16, 10], [16, 4]], ["Sigma-/Pi+", [4, 1], [1, 22]], ["Pi-/LP+", [22, 13], [13]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:9][O:8][C:19]([CH:2]=[C:10]([CH3:20])[N:31]=[N:15][C:5](=[O:16])[NH:18][c:21]1[cH:26][cH:13][cH:22][cH:14][cH:27]1)=[O:17].[CH3:3][CH:12]([CH3:4])[N+:25]1=[N:28][N:24]([CH:6]([CH3:29])[CH3:30])[C:32](=[CH2:23])[C-:7]1[C:11]([CH3:33])([CH3:34])[CH3:35]>>[CH3:1][CH2:9][O:8][C:19]([CH:2]([C:10]([CH3:20])=[N:31][N:15]=[C:5]([O-:16])[NH:18][c:21]1[cH:26][cH:13][cH:22][cH:14][cH:27]1)[CH2:23][c:32]1[c:7]([C:11]([CH3:33])([CH3:34])[CH3:35])[n+:25]([CH:12]([CH3:3])[CH3:4])[n:28][n:24]1[CH:6]([CH3:29])[CH3:30])=[O:17]", "epd": [["LP-/Pi+", [7], [32, 7]], ["Pi-/Sigma+", [23, 32], [23, 2]], ["Pi-/Pi+", [2, 10], [10, 31]], ["Pi-/Pi+", [31, 15], [15, 5]], ["Pi-/LP+", [5, 16], [16]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:5]([c:8]1[cH:18][cH:12][cH:10][cH:15][cH:21]1)([C:17]([S:6]([c:9]1[cH:19][cH:13][cH:11][cH:14][cH:20]1)(=[O:25])=[O:26])=[CH2:7])(=[O:27])=[O:28].[cH:1]1[c:23]2[cH:22][cH:4][cH:2][cH:16][c:29]2[cH-:3][cH:24]1>>[CH:1]1=[CH:24][CH:3]([CH2:7][C-:17]([S:5]([c:8]2[cH:18][cH:12][cH:10][cH:15][cH:21]2)(=[O:27])=[O:28])[S:6]([c:9]2[cH:19][cH:13][cH:11][cH:14][cH:20]2)(=[O:25])=[O:26])[c:29]2[cH:16][cH:2][cH:4][cH:22][c:23]21", "epd": [["LP-/Sigma+", [3], [3, 7]], ["Pi-/LP+", [7, 17], [17]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:5](=[O+:22][CH3:21])[c:23]1[cH:14][cH:12][cH:8][cH:13][cH:15]1.[cH:1]1[cH:7][cH:6][c:10]2[c:4]([cH:9]1)[CH2:20][CH:16]=[C:17]2[N:11]1[CH2:18][CH2:3][CH2:2][CH2:19]1>>[cH:1]1[cH:7][cH:6][c:10]2[c:4]([cH:9]1)[CH2:20][CH:16]([CH:5]([O:22][CH3:21])[c:23]1[cH:14][cH:12][cH:8][cH:13][cH:15]1)[C:17]2=[N+:11]1[CH2:18][CH2:3][CH2:2][CH2:19]1", "epd": [["LP-/Pi+", [11], [17, 11]], ["Pi-/Sigma+", [16, 17], [16, 5]], ["Pi-/LP+", [5, 22], [22]]]}
{"reaction_name": "Formaldehyde hydroxymethylation", "rsmi": "[CH2-:1][C:5]([CH3:2])=[O:3].[O:4]=[CH2:6]>>[CH2:1]([C:5]([CH3:2])=[O:3])[CH2:6][O-:4]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Pi-/LP+", [4, 6], [4]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1([C:5](=[O:21])[O:32][CH3:7])[CH2:10][CH2:26][CH2:23][N:30]1[C:24]1=[CH:12][CH2:4][CH2:28][CH2:15][CH2:6]1.[O-:2][n+:11]1[o:27][n:18][c:13]2[c:16]3[n+:9]([O-:19])[o:3][n:22][c:17]3[c:20]([N+:8]([O-:25])=[O:29])[cH:14][c:31]12>>[CH:1]1([C:5](=[O:21])[O:32][CH3:7])[CH2:10][CH2:26][CH2:23][N+:30]1=[C:24]1[CH2:6][CH2:15][CH2:28][CH2:4][CH:12]1[CH:14]1[C:20](=[N+:8]([O-:25])[O-:29])[c:17]2[c:16]([n+:9]([O-:19])[o:3][n:22]2)-[c:13]2[n:18][o:27][n+:11]([O-:2])[c:31]21", "epd": [["LP-/Pi+", [30], [24, 30]], ["Pi-/Sigma+", [12, 24], [12, 14]], ["Pi-/Pi+", [14, 20], [20, 8]], ["Pi-/LP+", [8, 29], [29]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:21][cH:3][c:10]([C:2]#[CH:9])[cH:4][cH:22]1.[cH:5]1[c:11]([CH+:25][c:12]2[cH:6][c:15]([F:19])[cH:24][c:16]([F:20])[cH:7]2)[cH:8][c:13]([F:17])[cH:23][c:14]1[F:18]>>[cH:1]1[cH:21][cH:3][c:10]([C+:2]=[CH:9][CH:25]([c:11]2[cH:5][c:14]([F:18])[cH:23][c:13]([F:17])[cH:8]2)[c:12]2[cH:6][c:15]([F:19])[cH:24][c:16]([F:20])[cH:7]2)[cH:4][cH:22]1", "epd": [["Pi-/Sigma+", [9, 2], [9, 25]]]}
{"reaction_name": "Thioester hydrolysis", "rsmi": "[O-:5][H:7].[S:1]([CH3:4])[C:6]([CH3:2])=[O:3]>>[CH3:2][C:6](=[O:3])[O-:5].[S:1]([CH3:4])[H:7]", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Pi-/LP+", [3, 6], [3]], ["LP-/Pi+", [3], [3, 6]], ["Sigma-/LP+", [1, 6], [1]], ["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [5, 7], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:6](=[O:2])([C:8]([F:25])([F:26])[F:27])[c:21]1[cH:15][c:7]2[n+:9]([O-:4])[o:24][n:12][c:31]2[c:20]([N+:13]([O-:11])=[O:17])[cH:22]1.[cH:3]1[c:19]2[cH:18][cH:30][c:28]([S-:10])[cH:16][c:29]2[cH:14][cH:5][cH:23]1>>[O:1]=[S:6](=[O:2])([C:8]([F:25])([F:26])[F:27])[C:21]1=[CH:22][C:20](=[N+:13]([O-:11])[O-:17])[c:31]2[c:7]([n+:9]([O-:4])[o:24][n:12]2)[CH:15]1[S:10][c:28]1[cH:16][c:29]2[cH:14][cH:5][cH:23][cH:3][c:19]2[cH:18][cH:30]1", "epd": [["LP-/Sigma+", [10], [10, 15]], ["Pi-/Pi+", [15, 21], [21, 22]], ["Pi-/Pi+", [22, 20], [20, 13]], ["Pi-/LP+", [13, 17], [17]]]}
